US09023865B2
(R)-1-(3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (36 mg, 0.060 mmol), 1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (18.6 mg, 0.090 mmol), PdCl2(dppf)-CH2Cl2 adduct (7.3 mg, 8.96 μmol), 1,4-dioxane (0.6 mL) and Na2CO3 (0.08 mL, 0.160 mmol, 2M) were charged in a vial. The mixture was evacuated and purged with nitrogen six times and heated at 80° C. for 1 h. The mixture was diluted with EtOAc, washed with water, brine, dried (Na2SO4) and concentrated in vacuo to afford crude (R)-1-(3-(1-methyl-1H-pyrazol-3-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea, which was used as such in the next step. MS ESI calcd. For C38H34N7O [M+H]+ 604, found 604.

reactant | (R)-1-(3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.060 mmol, 36 mg | BrC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H28BrN5O
reactant | 1-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.090 mmol, 18.6 mg | CN1N=C(C=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Na2CO3 | 0.160 mmol, 2M, 0.08 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(dppf) CH2Cl2 | 8.96 μmol, 7.3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
product | (R)-1-(3-(1-methyl-1H-pyrazol-3-yl)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | CN1N=C(C=C1)C1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H33N7O
